US08119692B2
(2S,4R)-methyl 4-(4-fluorophenyl)-4-methoxy-2-(2-(piperazin-1-yl)ethyl)butanoate (Intermediate B8)
To a solution of tert-butyl 4-((3S,5R)-5-(4-fluorophenyl)-5-methoxy-3-(methoxycarbonyl)pentyl)piperazine-1-carboxylate in 200 μL DCM was slowly added 2 mL TFA and the resulting solution stirred for 30 min at 25° C. The solvent was evaporated under reduced pressure and the crude product was used directly in the next reaction without further purification.

reactant | tert-butyl 4-((3S,5R)-5-(4-fluorophenyl)-5-methoxy-3-(methoxycarbonyl)pentyl)piperazine-1-carboxylate | FC1=CC=C(C=C1)[C@@H](C[C@H](CCN1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC)OC | C23H35FN2O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 μL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 4-(4-fluorophenyl)-4-methoxy-2-(2-(piperazin-1-yl)ethyl)butanoate | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)OC)CCN1CCNCC1)OC | C18H27FN2O3
